US04187216
3.42 g (0.01 mol) of L-alanyl-L-proline anilide hydrobromide were suspended in 100 ml of dry tetrahydrofuran and the suspension was cooled to 0° C. There were then added 2.8 ml (0.02 mol) of triethylamine followed by 1.72 g (0.001 mol) of 1-adamantoyl chloride. The mixture was stirred at 0° C. for 0.5 hour and at room temperature for 2 hours and then evaporated. The residue was extracted twice with 40 ml of ethyl acetate each time. The combined ethyl acetate extracts were washed successively with two 20 ml portions of 1-N hydrochloric acid, 20 ml of water, two 20 ml portions of 5% sodium bicarbonate solution and two 20 ml portions of water, dried over magnesium sulphate and evaporated. The residue was crystallised from ether/petroleum ether and further purified by chromatography on 100 g of silica gel using chloroform for the elution. Evaporation of the chloroform eluate and crystallisation of the residue from ether/petroleum ether yielded 1.09 g (24%) of pure N-(1-adamantylcarbonyl-L-alanyl-L-proline anilide of melting point 119°-121° C.; [α]D20 =-142.9° (c=1% in methanol).

reactant | L-alanyl-L-proline anilide hydrobromide | 0.01 mol, 3.42 g | Br.N[C@@H](C)C(=O)N1[C@H](C(=O)NC2=CC=CC=C2)CCC1
reactant | triethylamine | 0.02 mol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1-adamantoyl chloride | 0.001 mol, 1.72 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-adamantylcarbonyl-L-alanyl-L-proline anilide | C12(CC3CC(CC(C1)C3)C2)C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)NC3=CC=CC=C3)CCC2 | C25H33N3O3
